US04704156
Thionyl chloride (50 ml) was added to a solution of 1,2,2-trichlorocyclopropane carboxylic acid (47.4 grams) in 300 ml of benzene. The reaction mixture was heated to reflux temperature and stirred for approximately 20 hours. The solvents were evaporated in vacuo to provide the intermediate acid chloride derivative, 1,2,2-trichlorocyclopropane carboxylic acid chloride (43.8 grams).

reactant | Thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2,2-trichlorocyclopropane carboxylic acid | 47.4 grams | ClC1(C(C1)(Cl)Cl)C(=O)O | C4H3Cl3O2
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1,2,2-trichlorocyclopropane carboxylic acid chloride | 43.8 grams | ClC1(C(C1)(Cl)Cl)C(=O)Cl | C4H2Cl4O
